US07037935B2
a) 2-Fluoro-4-(3-fluoro-benzyloxy)-1-nitro-benzene
The title compound is prepared in analogy to Example 20a) from 3-fluoro-4-nitrophenol and 3-fluoro benzyl bromide. Yield: 100% of a colorless solid. MS: m/e=265.0 (M+).

reactant | 3-fluoro-4-nitrophenol | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 3-fluoro benzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 2-Fluoro-4-(3-fluoro-benzyloxy)-1-nitro-benzene | FC1=C(C=CC(=C1)OCC1=CC(=CC=C1)F)[N+](=O)[O-] | C13H9F2NO3
